US05837704
1-Methylpyrrole (0.065 g) was added to a cooled (-35° C.), stirred solution of butyllithium (2.5M, 0.32 mL) in dry THF (5 mL). N,N,N',N'-Tetramethylethylenediamine (0.090 g) was then added and the mixture was stirred for 90 min at -10° to -15° C. Tributyltin chloride (0.26 g) was then slowly added, and the mixture was allowed to warm to room temperature and stirred for 15 min. The solvent was evaporated to provide (1-methylpyrrol-2-yl)tributyltin, suitable for use in the next reaction.

reactant | 1-Methylpyrrole | 0.065 g | CN1C=CC=C1 | C5H7N
reactant | butyllithium | 2.5M, 0.32 mL | C(CCC)[Li]
reactant | N,N,N',N'-Tetramethylethylenediamine | 0.090 g | CN(CCN(C)C)C | C6H16N2
reactant | Tributyltin chloride | 0.26 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (1-methylpyrrol-2-yl)tributyltin | CN1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C5H6N.3C4H9.Sn/c1-6-4-2-3-5-6;3*1-3-4-2;/h2-4H,1H3;3*1,3-4H2,2H3;
